US05057614
A solution of 200 mg of 3-[1-(3-acetoxypropyl)-3-indolyl]-4-(1-methyl-3-indolyl)furan-2,5-dione in 1 ml of DMF and 2 ml of 33% aqueous ammonia was heated to 100° C. for 2 hours. 50 ml of water were added and the resulting solid was filtered off, dried and recrystallized from ethyl acetate to give 85 mg of 3-[1-(3-hydroxypropyl)-3-indolyl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione, m.p. 185°-187° C.

reactant | 3-[1-(3-acetoxypropyl)-3-indolyl]-4-(1-methyl-3-indolyl)furan-2,5-dione | 200 mg | C(C)(=O)OCCCN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C26H22N2O5
reactant | water | 50 ml | O | H2O
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ammonia | 2 ml | N | H3N
product | 3-[1-(3-hydroxypropyl)-3-indolyl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 85 mg | OCCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C24H21N3O3
